US06982274B2
4-Fluoro-3-[(3-fluorophenyl)(hydroxy)methyl]benzonitrile
In an atmosphere of nitrogen gas, 76.3 ml of 1.56 M solution of n-butyllithium in hexane was added to a solution of 11.1 g of N,N-diisopropylamine in 200 ml tetrahydrofuran under ice-cooling, and the mixture was stirred at the same temperature for 15 minutes. After cooling to −78° C., a solution of 12.1 g of 4-fluorobenzonitrile in 40 ml tetrahydrofuran was added dropwise. After stirring at the same temperature for 45 minutes, 10.6 ml of 3-fluorobenzaldehyde was added dropwise. After stirring at the same temperature for 25 minutes, saturated aqueous ammonium chloride solution was added and the solvent was removed. To the residue was added 150 ml of ethyl acetate, and the mixture was sequentially washed with 1 N hydrochloric acid, water, saturated aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography (ethyl acetate:toluene=3:97 to 1:19), and the resulting crystals were recrystallized from diisopropyl ether-hexane, to give 12.7 g of the title compound as pale yellow needles.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-diisopropylamine | 11.1 g | C(C)(C)NC(C)C | C6H15N
reactant | 4-fluorobenzonitrile | 12.1 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 3-fluorobenzaldehyde | 10.6 ml | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-Fluoro-3-[(3-fluorophenyl)(hydroxy)methyl]benzonitrile | 12.7 g | FC1=C(C=C(C#N)C=C1)C(O)C1=CC(=CC=C1)F | C14H9F2NO
